US07582631B2
(S)-[2′-((1S,4S)-2,5-Diaza-bicyclo[2.2.1]hept-2-yl)-[4,4′]bipyridinyl-2-yl]-(1-phenyl-ethyl)-amine
To 5-[2′-(1-phenyl-ethylamino)-[4,4′]bipyridinyl-2-yl]-2,5-diazabicyclo[2.2.1]-heptane-2-carboxylic acid tert-butyl ester (0.027 g, 0.058 mmol) were added 4N HCl (1 mL) in dioxane and a few drops of methanol. After 1 h, the reaction was concentrated in vacuo and the residue was taken up in water and extracted with ethyl acetate. The aqueous layer was neutralized with saturated sodium bicarbonate and extracted with chloroform (3×). The combined organic extract was dried (K2CO3), filtered, and concentrated in vacuo to give the title compound as a golden yellow solid. MS (ES+): 372.4 [M+H]+, 370.3 [M−H]−.

reactant | 5-[2′-(1-phenyl-ethylamino)-[4,4′]bipyridinyl-2-yl]-2,5-diazabicyclo[2.2.1]-heptane-2-carboxylic acid tert-butyl ester | 0.058 mmol, 0.027 g | C(C)(C)(C)OC(=O)N1C2CN(C(C1)C2)C2=NC=CC(=C2)C2=CC(=NC=C2)NC(C)C2=CC=CC=C2 | C28H33N5O2
reactant | HCl | 4N, 1 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | methanol | a few drops | CO | CH4O
product | (S)-[2′-((1S,4S)-2,5-Diaza-bicyclo[2.2.1]hept-2-yl)-[4,4′]bipyridinyl-2-yl]-(1-phenyl-ethyl)-amine | [C@@H]12N(C[C@@H](NC1)C2)C2=NC=CC(=C2)C2=CC(=NC=C2)N[C@@H](C)C2=CC=CC=C2 | C23H25N5
